US05691278
Synthesis of 2-(m-chlorophenyl)-4-methyl-4-(p-tolyl)-oxazolin-5-one
3.17 g (0.01M) of 2-(m-chlorobenzamido)-2-(p-tolyl)propionic acid was dissolved in 30 ml of acetic anhydride and the resulting solution was heated for 1 hr with reflux. The reaction solution was cooled and distilled out acetic anhydride in vacuo. The residue was subjected to chromatography, to give 2.4 g of the object compound, pure oily compound: 80 % Yield.

reactant | 2-(m-chlorobenzamido)-2-(p-tolyl)propionic acid | 0.01M, 3.17 g | ClC=1C=C(C(=O)NC(C(=O)O)(C)C2=CC=C(C=C2)C)C=CC1 | C17H16ClNO3
solvent | acetic anhydride | 30 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 2-(m-chlorophenyl)-4-methyl-4-(p-tolyl)-oxazolin-5-one | 2.4 g, 80 % Yield | ClC=1C=C(C=CC1)C=1OC(C(N1)(C1=CC=C(C=C1)C)C)=O | C17H14ClNO2
